US05455260
To t-butyldimethylsilyloxyserine methyl ester (27.5 g; 0.118 mol) dissolved in CH2Cl2 (125 ml) and diisopropylethylamine (25 ml; 0.14 mol) and cooled to 0° C. is added tritylchloride (33. g; 0.118 mol) portionwise over 2 minutes. The reaction is stirred for 4 hours at 25° C., diluted with CH2Cl2 and washed with H2O 3×. The organic phase is dried (MgSO4) and concentrated to dryness to give N-trityl-t-butyldimethylsilyloxy serine methyl ester as a tan solid which is used directly next Step C.

reactant | t-butyldimethylsilyloxyserine methyl ester | 0.118 mol, 27.5 g | COC([C@@H](NO[Si](C)(C)C(C)(C)C)CO)=O | C10H23NO4Si
reactant | diisopropylethylamine | 0.14 mol, 25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tritylchloride | 0.118 mol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | N-trityl-t-butyldimethylsilyloxy serine methyl ester | COC([C@@H](N(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CO)=O | C29H37NO4Si
